US09386769B2
1.15 g of 33% aqueous dimethylamine solution, 10 mL of N,N-dimethylformamide (DMF) and 2.80 g of 6-chloro-N-((2-chloro-thiazole-5-yl)methyl)-N-ethyl-3-nitropyridin-2-amine, prepared according to the example 1, in 5 mL of DMF were added into a 100 mL three-necked flask equipped with a magnetic stirrer, a condenser and a drying tube, under stirring at room temperature, 1.40 g of potassium carbonate was added in batches. Reacted at the room temperature until the reaction was complete. The reaction solution was treated by the method according to example 1 to obtain 0.92 g of 6-dimethylamino-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine, the content of 98.0%, as a golden yellow solid in a yield of 31.4%, mp: 74.6-78.4° C., GC-MS (M+) (EI, 70 eV, m/z) calc: 341. found: 341. 1H NMR (CDCl3/TMS, 300 MHz) δ (ppm) 1.193 (t, J=7.2 Hz, 3H, CH3), 3.192 (s, 6H, 2*CH3), 3.216 (q, J=7.2 Hz, 2H, CH2), 4.811 (s, 2H, CH2), 6.022 (d, J=9.0 Hz, 1H, Py H), 7.458 (s, 1H, thiazole-H), 8.165 (d, J=9.0 Hz, 1H, Py H).

reactant | dimethylamine | 1.15 g | CNC | C2H7N
reactant | 6-chloro-N-((2-chloro-thiazole-5-yl)methyl)-N-ethyl-3-nitropyridin-2-amine | 2.80 g | ClC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)[N+](=O)[O-] | C11H10Cl2N4O2S
reactant | potassium carbonate | 1.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-dimethylamino-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine | 0.92 g, yield of 31.4% | CN(C1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)[N+](=O)[O-])C | C13H16ClN5O2S
